### PR TITLE
two lemmas about closed sets of extended reals

### PR DESCRIPTION
**Pull request by affeldt-aist**
used in the development of measure theory

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -4028,7 +4014,21 @@ rewrite predeqE => -[r | | ].
 - by rewrite ltxx; split => // -[] x _; rewrite ltNge lee_ninfty.
 Qed.
 
-End open_sets_in_ereal.
+Lemma closed_ereal_le_ereal y : closed (fun x => y <= x)%E.
```
Comment (CohenCyril) [inline theories/normedtype.v:4017]:
```suggestion
Lemma closed_ereal_le_ereal y : closed [set x | (y <= x)%E].
```

File: theories/normedtype.v [hunk 2]
```diff
@@ -4028,7 +4014,21 @@ rewrite predeqE => -[r | | ].
...
+Proof.
+rewrite (_ : [set x | y <= x]%E = ~` [set x | y > x]%E); last first.
+  by rewrite predeqE=> x; split=> [rx|/negP]; [apply/negP|]; rewrite -leNgt.
+exact/closedC/open_ereal_lt_ereal.
+Qed.
+
+Lemma closed_ereal_ge_ereal y : closed (fun x => y >= x)%E.
```
Comment (CohenCyril) [inline theories/normedtype.v:4024]:
```suggestion
Lemma closed_ereal_ge_ereal y : closed [set x | (y >= x)%E].
```
